US04173645
1-(3,5-bis-Trifluoromethyl-phenyl)-3-methyl-4,5-dihydroxy-imidazolidine-2-thione
30.0 g of N-(3,5-bis-trifluoromethyl-phenyl)-N'-methyl-thiourea were stirred in 100 ml of 1,2-dimethoxyethane and 10 ml of triethylamine, and then 22 g of a 30% strength aqueous glyoxal solution were added. The thiourea thereupon dissolved, the reaction being exothermic. The solution was stirred for a further 12 hours at 20° C. and was concentrated in vacuo and the residue was stirred with water and a little acetic acid. The reaction product, which had solidified, was filtered off, washed and dried. Yield 32.0 g; melting point: 133°-135° C. after recrystallisation from toluene.

reactant | N-(3,5-bis-trifluoromethyl-phenyl)-N'-methyl-thiourea | 30.0 g | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(=S)NC)(F)F | C10H8F6N2S
reactant | glyoxal | C(=O)C=O | C2H2O2
reactant | thiourea | NC(=S)N | CH4N2S
solvent | 1,2-dimethoxyethane | 100 ml | COCCOC | C4H10O2
solvent | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
product | 1-(3,5-bis-Trifluoromethyl-phenyl)-3-methyl-4,5-dihydroxy-imidazolidine-2-thione | FC(C=1C=C(C=C(C1)C(F)(F)F)N1C(N(C(C1O)O)C)=S)(F)F | C12H10F6N2O2S
